US05225402
To a solution of 1-(4-aminophenyl)-3,4-dihydrocarbostyril (0.45 g) in dichloromethane (15 ml) is added triethylamine (0.29 g). Thereto is added 2,4-dimethoxybenzoyl chloride (0.42 g) with stirring under ice cooling. The mixture is refluxed with heating for 0.5 hour. After cooling, water is added thereto and the mixture is extracted with dichloromethane, washed with water and then dried with magnesium sulfate. The solvent is distilled off under reduced pressure and the residue is purified by silica gel column chromatography and recrystallized from ethanol/diethyl ether/n-hexane to give 1-[4-(2,4-dimethoxybenzoylamino)phenyl]-3,4-dihydrocarbostyril (0.44 g) as white powder, m.p.: 226°-227° C.

reactant | 1-(4-aminophenyl)-3,4-dihydrocarbostyril | 0.45 g | NC1=CC=C(C=C1)N1C(=O)CCC2=CC=CC=C12 | C15H14N2O
reactant | triethylamine | 0.29 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dimethoxybenzoyl chloride | 0.42 g | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-[4-(2,4-dimethoxybenzoylamino)phenyl]-3,4-dihydrocarbostyril | 0.44 g | COC1=C(C(=O)NC2=CC=C(C=C2)N2C(=O)CCC3=CC=CC=C23)C=CC(=C1)OC | C24H22N2O4
